US05438052
7-Aminocephalosporanic acid (162 mg) (0.6 mmol) and 216 mg (0.66 mmol) of 5-(3,4-dihydroxyphenyl)-2-phenyl-4(3H)-pyrimidinethione are suspended in 7 ml of dichloromethane/sulpholane (1:1 v/v). 4 ml of boron trifluoride diethyl etherate are added thereto while stirring. After 16 hours the mixture is concentrated in a high vacuum at room temperature, the residue is washed with diethyl ether and dissolved in about 3 ml of water. Sodium hydrogen carbonate is added thereto until the pH is adjusted to 5. Then, 1 ml of diethyl ether and 0.5 ml of ethanol are added thereto. The precipitated product is filtered off under suction, washed in succession with water, ethanol and ether and dried in a high vacuum at room temperature. There are obtained 250 mg of (6R,7R)-7-amino-3-[[[5-(3,4-dihydroxyphenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | 7-Aminocephalosporanic acid | 0.6 mmol, 162 mg | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 5-(3,4-dihydroxyphenyl)-2-phenyl-4(3H)-pyrimidinethione | 0.66 mmol, 216 mg | OC=1C=C(C=CC1O)C=1C(NC(=NC1)C1=CC=CC=C1)=S | C16H12N2O2S
reactant | boron trifluoride diethyl etherate | 4 ml | B(F)(F)F.CCOCC
solvent | dichloromethane sulpholane | 7 ml | ClCCl.S1(=O)(=O)CCCC1
product | (6R,7R)-7-amino-3-[[[5-(3,4-dihydroxyphenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 250 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC(=NC=C1C1=CC(=C(C=C1)O)O)C1=CC=CC=C1 | C24H20N4O5S2
